US05744471
To a stirred solution of sodium hydroxide (9.46 g, 236.6 mM) in ethanol (100 mL) at 45° C. was added 2-phenethylhydrazine sulfate salt (27.6 g, 118.3 mM) along with additional ethanol (50 mL). The resulting thick white suspension was stirred for 2 hours. The solids were removed byfiltration and washed with ethanol (50 mL). The clear combined filtrates were concentrated to ~75 mL, and dimethyl 7-chloro-4-hydroxyquinoline-2,3-dicarboxylate (2.50 g, 8.45 mM) was added to give a brown solution. The solution was refluxed for 16 hours during which time a yellow precipitate formed. The suspension was filtered hot and washed with ethanol (50 mL) to give the 2-phenethylhydrazine salt of 7-chloro-1-hydroxy-3-(2-phenethyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione as a yellow powder (2.90 g). This material was refluxed in glacial acetic acid (50 mL) for 2 hours and, after cooling to room temperature, the resulting suspension was filtered to give a mixture of 7-chloro-1H -hydroxy-3-(2-phenethyl)-3,4,5,10-tetrahydropyridazino[4,5-b]quinoline-4,10-dione and the corresponding 2-substituted phenethyl isomer as a yellow solid (2.20 g, 68%). This mixture was stirred in methanol (250 mL) and methyl-D-glucamine solution (15.0 g methyl-D-glucamine in 250 mL water). Choline hydroxide solution (9.0 mL, 50 weight % in water) was then added to give a deep amber solution. This solution was carefully acidified to pH9 with glacial acetic acid whereupon a yellow precipitate formed. After stirring this yellow suspension for 1 hour, the solids were collected and washed successively with aqueous methanol (50%), methanol/ether and ether to give the title compound (free acid, 1.13 g, 54%) as a yellow powder. The filtrate and washes from this collection were saved for use in Example

reactant | sodium hydroxide | 236.6 mM, 9.46 g | [OH-].[Na+]
reactant | 2-phenethylhydrazine sulfate salt | 118.3 mM, 27.6 g | S(=O)(=O)(O)O.C(CC1=CC=CC=C1)NN
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-phenethylhydrazine | C(CC1=CC=CC=C1)NN | C8H12N2
